US06824706B2
5-(2′-chloro-1,2-difluorovinyl)-3-hexylthiophene (V.1, R1═hexyl, R2═H)
A solution of 3-hexylthiophene (30 g, 0179 mol) in anhydrous petrol (40-60 C., 100 ml) was cooled to −10 C. and diisopropylamine (freshly distilled, 18.1 g, 0179 mol) and tetramethylethylenediamine (TMEDA) (33 g, 028 mol) were added. N-BuLi (1.6M in hexanes, 113 ml, 0.18 mol) was added dropwise over 30 min at −10 C. The solution was warmed to 0 C. over 1 h, and then added via cannula to a solution of chlorotrifluorethylene at −78 C. The reaction was warmed to RT over 2 h and stirred for a further 16 h. The reaction was quenched with sat, ammonium chloride and extracted with THF (3×50 ml). The combined organics were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to afford a yellow oil (47 g). High vacuum distillation through a packed column with a reflux ratio head (0.1 mbar, 70-71 C.) afforded 13.0 g of product. Purity (HPLC) >99%. MS (EI) 264 (d, M+). 19F NMR revealed the expected signals, 1H and 13C NMR were complicated by the presence of cis/trans isomers.

reactant | 3-hexylthiophene | 30 g | C(CCCCC)C1=CSC=C1 | C10H16S
reactant | chlorotrifluorethylene | ClC(=C(F)F)F | C2ClF3
product | 5-(2′-chloro-1,2-difluorovinyl)-3-hexylthiophene | 47 g | ClC(=C(F)C1=CC(=CS1)CCCCCC)F | C12H15ClF2S
